US06756231B1
3,6-Bis(dimethylamino)-9-(3-amino-2-carboxy-4-nitrophenyl)xanthylium intramolecular salt (2.44 g) prepared by the method disclosed in WO99/01447 was dissolved in 120 ml of dichloroethane, and the solution was added with 1 ml of diisopropylethylamine. The mixture was further added with acetoxymethyl bromide (0.55 ml), and stirred at room temperature. The progress of the reaction was monitored every day by TLC, and additional diisopropylethylamine and acetoxymethyl bromide were added in amounts half of those used for the first addition. After 4 days, the reaction mixture was added with dichloroethane and washed with water, and the solvent was evaporated. The residue was purified by silica gel column chromatography to obtain 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3-amino-4-nitrophenyl)xanthylium bromide (0.445 g, 13.6%).

reactant | 3,6-Bis(dimethylamino)-9-(3-amino-2-carboxy-4-nitrophenyl)xanthylium | 2.44 g | CN(C=1C=CC2=C(C3=CC=C(C=C3[O+]=C2C1)N(C)C)C1=C(C(=C(C=C1)[N+](=O)[O-])N)C(=O)O)C
reactant | diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetoxymethyl bromide | 0.55 ml | C(C)(=O)OCBr | C3H5BrO2
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
product | 3,6-bis(dimethylamino)-9-(2-acetoxymethoxycarbonyl-3-amino-4-nitrophenyl)xanthylium bromide | 0.445 g, 13.6% | [Br-].CN(C=1C=CC2=C(C3=CC=C(C=C3[O+]=C2C1)N(C)C)C1=C(C(=C(C=C1)[N+](=O)[O-])N)C(=O)OCOC(C)=O)C | InChI=1S/C27H26N4O7.BrH/c1-15(32)36-14-37-27(33)25-20(10-11-21(26(25)28)31(34)35)24-18-8-6-16(29(2)3)12-22(18)38-23-13-17(30(4)5)7-9-19(23)24;/h6-13H,14H2,1-5H3,(H-,28,33);1H
